US04994352
Silver neodecanoate was prepared according to the procedure as disclosed in Armstrong, U.S. Pat. No. 4,555,501 herein incorporated by reference, from silver (I) oxide and neodecanoic acid. A slurry of 5 ml neodecanoic acid and 5 ml absolute ethanol was heated to 80° C. in an oil bath. Approximately 1.7 grams Ag2O was added slowly and the resulting solution was heated for approximately 5 minutes. One drop of 30 percent by weight H2O2 was added to the resulting solution to oxidize any prereduced silver metal. After the addition of H2O2 the solution was clear yellow. Absolute ethanol was added to the solution to precipitate white silver neodecanoate. The precipitate was filtered and reslurried twice in absolute ethanol. An amount of the dye, 3,3'-di(3-acetoxypropyl-11-diphenylamino-10,12-ethylene-5,5',6,6'-dibenzothiatricarbocyanine perchlorate) was added to a methylene chloride solution to provide a 0.01 molar solution. To this solution was added 1 weight percent silver neodecanoate and 1 weight percent polystyrene, based upon the weight of the solution. This solution was spin-coated onto a glass substrate to provide an active layer approximately 1 μm thick.

reactant | silver (I) oxide | [Ag-]=O
reactant | neodecanoic acid | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | neodecanoic acid | 5 ml | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | H2O2 | OO | H2O2
reactant | silver | [Ag] | Ag
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Silver neodecanoate | C(CCCCCC(C)(C)C)(=O)[O-].[Ag+] | InChI=1S/C10H20O2.Ag/c1-10(2,3)8-6-4-5-7-9(11)12;/h4-8H2,1-3H3,(H,11,12);/q;+1/p-1
